US07605169B2
c) (±)-1,1-dimethylethyl(1S,3R,4R)-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]cyclopentanecarboxylate
To a solution of (±)-1,1-dimethylethyl (1S,3R,4R)-3-(aminomethyl)-4-hydroxycyclopentanecarboxylate (7.9 g, 37.0 mmole) in DCM (100 mL) at RT was added Et3N (6.7 mL, 48.4 mmole) and N-(benzyloxycarbonyloxy)succinimide (12.1 g, 48.4 mmole). After 18 h, the DCM was removed under vacuum and the residue purified on silica (1:1, hexanes/EtOAc) to give the title compound (11.6 g, 89%) as a white solid: LC-MS (ES) m/e 350 (M+H)+.

reactant | (±)-1,1-dimethylethyl (1S,3R,4R)-3-(aminomethyl)-4-hydroxycyclopentanecarboxylate | 37.0 mmole, 7.9 g | NC[C@H]1C[C@@H](C[C@H]1O)C(=O)OC(C)(C)C | C11H21NO3
reactant | Et3N | 48.4 mmole, 6.7 mL | CCN(CC)CC | C6H15N
reactant | N-(benzyloxycarbonyloxy)succinimide | 48.4 mmole, 12.1 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (±)-1,1-dimethylethyl(1S,3R,4R)-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]cyclopentanecarboxylate | 11.6 g, 89% | O[C@@H]1C[C@H](C[C@@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H27NO5
